US08217183B2
Di-acylation (Step A) A suspension of (2,3,5,6-tetrabromothieno[3,2,b]thiophene (20 mmol) in anhydrous THF (200 mL) is cooled to −78° C. Phenyl lithium solution in n-butyl ether (41 mmol) is added dropwise and the reaction mixture is stirred at −78° C. for 4 h. Docosanoyl chloride (41 mmol) is added to the reaction mixture via syringe while maintaining the temperature of the mixture as close to −78° C. The reaction is allowed to warm to RT over about three hours and then stirred overnight at RT. The reaction mixture is then quenched by the addition of crushed ice (200 g). The reaction mixture is stirred while the ice is allowed to melt. Most (>90%) of the THF is then removed under reduced pressure and the solid is filtered from the residual solution. The solid is suspended in water (100 mL) and stirred for 1 hr then filtered. The solid is re-suspended in methanol (100 mL), stirred for 1 hr then filtered to give the product 1-{3,6-dibromo-5-docosanoylthieno[3,2-b]thiophen-2-yl}docosan-1-one. 1H NMR (CD2Cl2) δ 0.95-1.15 (6H, m), 1.30-1.82 (76H, m) and 3.17-3.32 (4H, m).

reactant | 2,3,5,6-tetrabromothieno[3,2,b]thiophene | 20 mmol | BrC1=C(C2=C(S1)C(=C(S2)Br)Br)Br | C6Br4S2
reactant | Phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | n-butyl ether | 41 mmol | C(CCC)OCCCC | C8H18O
reactant | Docosanoyl chloride | 41 mmol | C(CCCCCCCCCCCCCCCCCCCCC)(=O)Cl | C22H43ClO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-{3,6-dibromo-5-docosanoylthieno[3,2-b]thiophen-2-yl}docosan-1-one | BrC=1C2=C(SC1C(CCCCCCCCCCCCCCCCCCCCC)=O)C(=C(S2)C(CCCCCCCCCCCCCCCCCCCCC)=O)Br | C50H86Br2O2S2
